US06784167B2
To (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-phenyl-pyrrolidin-2-one (prepared according to the procedure of Intermediate T, Method 2, 1.00 g, 4.04 mmol) was added sulfuric acid (4.0 mL). To the resulting yellow solution was added potassium nitrate (0.50 g, 4.85 mmol) in portions, keeping the reaction temperature below 30° C. The reaction mixture was stirred for 18 h, then poured onto ice water (30 mL) and extracted with CH2Cl2, dried (MgSO4) and concentrated under reduced pressure. The oily residue was diluted with EtOAc and the resulting precipitate was collected by filtration. The solid was washed with Et2O to give (±)-(4R 5R*)-5-ethoxycarbonyl-1-methyl-4-(4-nitrophenyl)pyrrolidin-2-one (374 mg, 32%) as a white solid: mp 142-143° C.; TLC (33% EtOAc/hex) Rf 0.23; HPLC ES-MS m/z 293 (MH+).

reactant | (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-phenyl-pyrrolidin-2-one | C(C)OC(=O)[C@H]1[C@H](CC(N1C)=O)C1=CC=CC=C1 | C14H17NO3
reactant | sulfuric acid | 4.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | 4.85 mmol, 0.50 g | [N+](=O)([O-])[O-].[K+]
product | (±)-(4R 5R*)-5-ethoxycarbonyl-1-methyl-4-(4-nitrophenyl)pyrrolidin-2-one | 374 mg, 32% | C(C)OC(=O)[C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H16N2O5
